Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Speech difficulties, feeling unbalanced
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right handed male with history of
DM2, HLD, HTN who presents after waking up with feeling of being
off balance and difficulty speaking.

He has been in his usual state of health recently. He went to 
bed
___ night around 10PM. He woke up at 0500 and felt "dizzy" 
but
not like the room was spinning. He felt off-balance while 
sitting
in bed. He did not have any tingling/numbness, weakness, or
visual changes. He was able to get out of bed and walk. Then 
when
he tried to talk to his daughter and wife, he was having
difficulty speaking. Per daughter's report, he was speaking very
slowly, "choppy" and the sentences weren't making sense. He was
saying real words, but he sounded slurred. The patient himself
feels like he could comprehend what people were saying to him. 
He
called his clinic and he was unable to tell them his phone 
number
which alarmed him so he called ___. He was initially taken to ___ with NIHSS 1 for aphasia. He ultimately had MRI which
should small L MCA infarct, so he was transferred to ___ for
further care. 

On my exam, he feels 100% back to normal without difficulties
speaking, comprehending speech, weakness, numbness, visual
changes. He denies recent illness. He denies snoring, denies
fluttering feeling in his chest. He is fully compliant with his
medications and takes aspirin 81 mg daily.

 
Past Medical History:
DM2- thinks BG around 100s at home; is on metformin and a second
agent was added recently
HTN- doesn't not check SBP at home
HLD
 
Social History:
___
Family History:
Mother had multiple strokes- unclear etiology; otherwise no
history of strokes  
 
Physical Exam:
Vitals: T: 97.6  BP:156/75  HR: 65 RR: 18 SaO2: 98%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, ___,
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to name both high and low
frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect. Of note,
he did have right/left confusion. No acalculia. No alexia. When
asked to write a sentence he misspelled awkward but knew he
misspelled it but couldn't correct it. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation and digits. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. right pronation without
drift. No adventitious movements, such as tremor or asterixis
noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.  

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slightly clumsy finger tap 
on
right. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Slightly broad-based, normal stride and
arm swing.  
 
Pertinent Results:
___ 08:28AM BLOOD WBC-6.0 RBC-5.48 Hgb-12.5* Hct-40.8 
MCV-75* MCH-22.8* MCHC-30.6* RDW-16.6* RDWSD-43.4 Plt ___
___ 08:28AM BLOOD ___ PTT-28.1 ___
___ 08:28AM BLOOD Glucose-93 UreaN-8 Creat-0.8 Na-144 K-4.4 
Cl-105 HCO3-25 AnGap-14
___ 08:28AM BLOOD ALT-24 AST-23 AlkPhos-93 TotBili-0.6
___ 08:28AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.0 Cholest-108
___ 08:28AM BLOOD %HbA1c-6.6* eAG-143*
___ 08:28AM BLOOD Triglyc-64 HDL-36* CHOL/HD-3.0 LDLcalc-59
___ 08:28AM BLOOD TSH-1.7

TTE ___
The left atrial volume index is mildly increased. No 
thrombus/mass is seen in the body of the left atrium
(best excluded by TEE) The right atrium is mildly enlarged. 
There is an intermittent left-to-right color
flow Doppler signal across the interatrial septum most c/w a 
small secundum-type atrial septal defect.
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a
normal cavity size. There is normal regional and global left 
ventricular systolic function. No thrombus
or mass is seen in the left ventricle. Quantitative 3D 
volumetric left ventricular ejection fraction is 63 %.
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Mildly
dilated right ventricular cavity with normal free wall motion. 
The aortic sinus diameter is normal for
gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal. There is no
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. No
masses or vegetations are seen on the aortic valve. There is no 
aortic valve stenosis. There is mild [1+]
aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse. No
masses or vegetations are seen on the mitral valve. There is 
trivial mitral regurgitation. The tricuspid
valve leaflets appear structurally normal. No mass/vegetation 
are seen on the tricuspid valve. There is
mild [1+] tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no
pericardial effusion.
IMPRESSION: Small secundum ASD suggested in clips 63-69. 
Aggitated saline not used because
color flow seen left to right. Mildly dilated right heart, mild 
pulmonary hypertension. No prior TTE
available for comparison. No prior TTE available for comparison.
 
Brief Hospital Course:
___ year old right handed male with
history of DM2, HTN, HLD who presented after waking up with a
feeling of being off-balance and what sounds to be expressive
aphasia, which has now resolved. He initially went to ___
with ___ 1 and MRI which showed small superior division L MCA
infarct with not large vessel occlusion on vessel imaging. At
___ his exam is notable for right-left confusion, but 
otherwise
fluent speech without anomia, apraxia or neglect, slight right
pronation with no drift and otherwise normal exam. Etiology is 
likely  cardioembolic vs. artery to artery. He reportedly does 
not snore, have sleep apnea and denies palpitations which are 
risk factors for cardioembolic etiology. He does have small 
vessel risk factors as above. TTE showed small secundum ASD 
suggested. Aggitated saline not used because color flow seen 
left to right. Mildly dilated right heart, mild pulmonary 
hypertension. Lower extremity Doppler's negative for DVT.

Transitional Issues:
-Spoke with PCP ___ will set up for event monitor 
for 30 days, cardiology and neurology referrals
-Plavix in addition to ASA for 3 weeks. Then switch to plavix 
and discontinue ASA.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =65 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Simvastatin 5 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. amLODIPine 10 mg PO DAILY 
5. Repaglinide 1 mg PO DAILY 
6. irbesartan 300 mg oral DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atenolol 25 mg PO DAILY  
5.  irbesartan 300 mg oral DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Repaglinide 1 mg PO DAILY  
8.  Simvastatin 5 mg PO DAILY  
9.Outpatient Physical Therapy
S/p small acute left hemispheric stroke. 
For higher-order mobility training/balance. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 You were hospitalized due to symptoms of speech difficulty and 
feeling unbalanced resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:  
 High blood pressure
 High cholesterol
 Diabetes 

 We are changing your medications as follows:  
 START taking plavix
 After 3 weeks, STOP taking aspirin
  
 Please take your other medications as prescribed.  
 I have spoken with your primary care physician, ___. She 
would like you to schedule an appointment with one of her 
colleagues when you get home from the hospital to set up getting 
a heart monitor and follow-up with a cardiologist and 
neurologist. (She is on vacation).
  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___